US06699910B2
Under N2 atmosphere, LDA (54.5 mL, 110 mmol) was added drop-wise to a stirred solution of 2-p-tolyl-propionic acid ethyl ester (21 g, 110 mmol) in anhydrous THF (190 mL) at −78° C. After 1 h, the reaction mixture was added to a solution of 1,4-dibromo-butane (38 g, 176 mmol) in THF (50 mL) at −78° C., followed by addition of DMPU (20 mL). The reaction mixture was stirred for 2 h, then warmed to rt overnight. The resulting mixture was poured into saturated NH4Cl solution (1000 mL), and extracted with ethyl acetate (4×250 mL). The combined organic layers were washed with brine (300 mL), 1 M HCl (200 mL), saturated NaHCO3 solution (300 mL), and brine (200 mL). The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was distilled in high vacuo (bp. 128-130° C./0.2 mmHg) to furnish 6-bromo-2-methyl-2-p-tolyl-hexanoic acid ethyl ester (22 g, 89.5%) as an oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm) 7.19 (d, 2H, J=8.2 Hz), 7.12 (d, 2H, J=8.2 Hz), 4.13 (q, 2H, J=7.2 Hz), 3.37 (t, J=6.6 Hz, 2H), 2.32 (s, 3H), 2.10-1.80 (m, 4H), 1.54 (s, 3H), 1.36 (m, 2H), 1.19 (t, J=7.2 Hz, 3H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm) 176.26, 140.92, 136.35, 129.21, 125.89, 60.88, 49.82, 38.53, 33.61, 33.33, 23.59, 22.78, 21.07, 14.24. HRMS (LSIMS, nba): Calc. for (C16H23BrO2) 327.0959, found 327.0975.

reactant | LDA | 110 mmol, 54.5 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-p-tolyl-propionic acid ethyl ester | 110 mmol, 21 g | C(C)OC(C(C)C1=CC=C(C=C1)C)=O | C12H16O2
reactant | 1,4-dibromo-butane | 176 mmol, 38 g | BrCCCCBr | C4H8Br2
reactant | NH4Cl | 1000 mL | [NH4+].[Cl-]
solvent | THF | 190 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DMPU | 20 mL | CN1CCCN(C1=O)C | C6H12N2O
product | 6-bromo-2-methyl-2-p-tolyl-hexanoic acid ethyl ester | 22 g, 89.5% | C(C)OC(C(CCCCBr)(C1=CC=C(C=C1)C)C)=O | C16H23BrO2
